US05210290
(a) 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]propionic Acid Methyl Ester
8.96 g (50 mmol) of 4-fluoro-2-trifluoromethylaniline is dissolved in 100 ml of pyridine and under cold conditions combined under stirring with 9.52 g (50 mmol) of 3-chlorosulfonylpropionic acid methyl ester (98.5%). The mixture is agitated for 20 minutes, heated for 4 hours to 40° C., and the pyridine is exhausted under vacuum. The residue is distributed between dichloroethane and 4N hydrochloric acid. The organic solution is washed with water, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is purified by column chromatrography on silica gel. The title compound is eluted with ethyl acetate.

reactant | 4-fluoro-2-trifluoromethylaniline | 50 mmol, 8.96 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | 3-chlorosulfonylpropionic acid methyl ester | 50 mmol, 9.52 g | COC(CCS(=O)(=O)Cl)=O | C4H7ClO4S
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]propionic Acid Methyl Ester | COC(CCS(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C11H11F4NO4S
